US08426411B2
To a flask charged with 10% palladium on carbon (0.20 g, 0.19 mmol) was added a solution of benzyl 3-(azidomethyl)cyclobutanecarboxylate (2.00 g, 8.15 mmol, prepared using IIII from benzyl 3-(hydroxymethyl)cyclobutanecarboxylate (Parkway Scientific), JJJJ with sodium azide) in MeOH (100 mL). The reaction mixture was sparged with hydrogen and an atmosphere of hydrogen was maintained via a balloon. The reaction mixture was stirred for about 4 h at ambient temperature and then was filtered through a pad of Celite®, washed with MeOH and concentrated in vacuo to give the crude 3-(aminomethyl)cyclobutanecarboxylic acid (1.08 g, 100%) which was used without further purification: LC/MS (Table 1, Method r) Rt=2.41 min (ELSD); MS m/z: 130 (M+H)+.

reactant | benzyl 3-(azidomethyl)cyclobutanecarboxylate | 8.15 mmol, 2.00 g | N(=[N+]=[N-])CC1CC(C1)C(=O)OCC1=CC=CC=C1 | C13H15N3O2
catalyst | palladium on carbon | 0.19 mmol, 0.20 g | [Pd] | Pd
solvent | MeOH | 100 mL | CO | CH4O
product | 3-(aminomethyl)cyclobutanecarboxylic acid | 1.08 g, 100% | NCC1CC(C1)C(=O)O | C6H11NO2
